* tt_analog_ring characterisation
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.include /work/analog/out/pex/tt_analog_ring.pex.spice
Vdd VPWR 0 1.2
Vcode0 code[0] 0 0
Vcode1 code[1] 0 0
Vcode2 code[2] 0 0
Vcode3 code[3] 0 0
Vcode4 code[4] 0 0
Vcode5 code[5] 0 0
Vcode6 code[6] 0 0
Vcode7 code[7] 0 1.2
Venable enable 0 1.2
Xdut code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] enable clk_out VPWR 0 tt_analog_ring
Cl clk_out 0 0.108p
.control
tran 10p 400n
* one full edge each way, well inside the run (LAST could straddle an edge
* cut off by tstop and come out negative)
meas tran r20 when v(clk_out)=0.24 rise=3 from=200n
meas tran r80 when v(clk_out)=0.96 rise=3 from=200n
meas tran f80 when v(clk_out)=0.96 fall=3 from=200n
meas tran f20 when v(clk_out)=0.24 fall=3 from=200n
meas tran ta when v(clk_out)=0.6 rise=1 from=200n
meas tran tb when v(clk_out)=0.6 rise=5 from=200n
.endc
.end
